US04214002
A mixture of diketene (25 g), urethane (20 g), and acetic acid (75 ml) was refluxed for 25 minutes. Evaporation of the acetic acid under reduced pressure gave a syrup which crystallized on scratching. Recrystallization from benzene gave 16.6 g (32.5%) of N-carbethoxyacetoacetamide as colorless needles.

reactant | diketene | 25 g | C=C1CC(=O)O1 | C4H4O2
reactant | urethane | 20 g | NC(=O)OCC | C3H7NO2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | N-carbethoxyacetoacetamide | 16.6 g, 32.5% | C(=O)(OCC)NC(CC(=O)C)=O | C7H11NO4
